US07312330B2
C. 7-Benzyl-N-(4-(trifluoromethyl)phenyl)-5,6,7,8-tetrahydro-2-(methylthio)pyrido[3,4-d]pyrimidin-4-amine
Sodium iodide (3.9 g, 26 mmol) and hydriodic acid (10 mL, 47% aqueous solution) were added to a mixture of 7-benzyl-4-chloro-5,6,7,8-tetrahydro-2-(methylthio)pyrido[3,4-d]pyrimidine (8.0 g, 26 mmol) and 4-aminobenzotrifluoride (5.06 g, 0.031 mol) in dioxane (100 mL) and the reaction mixture was stirred at 100° C. overnight. Solid thus formed was filtered out, washed with ethyl acetate and diethyl ether and dried in vacuo. Product was obtained as white needle solid (8.2 g).

reactant | Sodium iodide | 26 mmol, 3.9 g | [I-].[Na+]
reactant | hydriodic acid | 10 mL | I | HI
reactant | 7-benzyl-4-chloro-5,6,7,8-tetrahydro-2-(methylthio)pyrido[3,4-d]pyrimidine | 26 mmol, 8.0 g | C(C1=CC=CC=C1)N1CC=2N=C(N=C(C2CC1)Cl)SC | C15H16ClN3S
reactant | 4-aminobenzotrifluoride | 0.031 mol, 5.06 g | NC1=CC=C(C=C1)C(F)(F)F | C7H6F3N
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
product | 7-Benzyl-N-(4-(trifluoromethyl)phenyl)-5,6,7,8-tetrahydro-2-(methylthio)pyrido[3,4-d]pyrimidin-4-amine | 8.2 g | C(C1=CC=CC=C1)N1CC=2N=C(N=C(C2CC1)NC1=CC=C(C=C1)C(F)(F)F)SC | C22H21F3N4S
